US07368579B2
Acetonitrile (100 ml) suspension of 2-mercaptoimidazole (5.0 g) and 4-chloronitrobenzene (8.7 g), potassium carbonate (8.3 g) was stirred under refluxing for 1 day. The reaction mixture was poured into ice-water. The deposited solid matters were collected by filtration, washed with water and diethyl ether. The thus obtained solids were dried, there was obtained 2-(4-nitrophenylthio)imidazole (9.5 g, yield: 86%) as yellow powdery product.

reactant | 2-mercaptoimidazole | 5.0 g | SC=1NC=CN1 | C3H4N2S
reactant | 4-chloronitrobenzene | 8.7 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | Acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(4-nitrophenylthio)imidazole | 9.5 g, yield: 86% | [N+](=O)([O-])C1=CC=C(C=C1)SC=1NC=CN1 | C9H7N3O2S
